US05348855
Example 1(a): Preparation of 3,6,9,12,15-Pentaoxaheptadecane-1,17-diol Ditosylate
To a stirred solution containing 50 g of hexaethylene glycol (0.177 mol) and 64 ml of triethylamine (39.36 g, 0.389 mol) in 400 ml of CH2Cl2 at 0° C. was added dropwise a solution containing 73.91 g of p-toluenesulfonyl chloride (0.389 mol) in 400 ml of CH2Cl2 over a 2.5 hour period. The reaction mixture was then stirred for one hour at 0° C. and then heated to ambient temperature for 44 hours. The mixture was then filtered and the filtrate was concentrated in vacuo. The resulting heterogeneous residue was suspended in 500 ml of ethyl acetate and filtered. The filtrate was then concentrated in vacuo to a yellow oil which was triturated eight times with 250 ml portions of warm hexane to remove unreacted p-toluenesulfonyl chloride. The resulting oil was then concentrated under high vacuum to yield 108.12 g of a yellow oil (quantitative yield).

reactant | hexaethylene glycol | 0.177 mol, 50 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | triethylamine | 0.389 mol, 64 ml, 39.36 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.389 mol, 73.91 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | 3,6,9,12,15-Pentaoxaheptadecane-1,17-diol Ditosylate | 108.12 g, quantitative yield | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCOCCOCCOS(=O)(=O)C1=CC=C(C)C=C1 | C26H38O11S2
